US07612075B2
D. 4-Amino-7-chloromethylquinazoline.
To 15 ml of a saturated ethanolic ammonia solution is added 1.0 g (4.7 mmole) of 4-chloro-7-chloromethylquinazoline. The mixture is stirred at room temperature overnight. The precipitate which forms is collected to give 0.7 g of the title intermediate product, mp>300° C.; 77% yield. 1H NMR (d6-DMSO, 300 MHz) δ 8.38 (s, 1H), 8.20 (d, 1H), 7.78 (bs, 2H), 7.70 (s, 1H), 7.51 (d, 1H), 4.92 (s, 2H). EI MS, [M]+=193, 195 (Cl pattern).

reactant | ammonia | 15 ml | N | H3N
reactant | 4-chloro-7-chloromethylquinazoline | 4.7 mmole, 1.0 g | ClC1=NC=NC2=CC(=CC=C12)CCl | C9H6Cl2N2
product | 4-Amino-7-chloromethylquinazoline | 0.7 g, 77% yield | NC1=NC=NC2=CC(=CC=C12)CCl | C9H8ClN3
